US04439437
An intimate mixture of 2-(2-thiazolylmethylthio)ethylamine [prepared from 6.73 g; 0.020 moles of the dihydrobromide salt and sodium ethoxide (from 0.92 g; 0.040 g. atom of sodium in ethanol)] and 2-chloropyridine 3-carboxylic acid (3.15 g; 0.020 moles) was heated to 150° for 3 hours. The resulting brown residue was cooled, dissolved in a little water, and basified to pH5 by dropwise addition of 2 N sodium hydroxide solution, to precipitate an oil. The latter was separated and dried, and chromatographed on a column of silica-gel using chloroform/ethyl acetate, (1:1). The crude product was then recrystallised from isopropanol to give 2-[2-(2-thiazolylmethylthio)ethyl]amino pyridine 3-carboxylic acid as a cream-coloured solid (0.36 g, m.p. 133°-4° (softening above 123°).

reactant | 2-(2-thiazolylmethylthio)ethylamine | S1C(=NC=C1)CSCCN | C6H10N2S2
reactant | sodium ethoxide | 0.92 g | [O-]CC.[Na+]
reactant | 2-chloropyridine 3-carboxylic acid | 0.020 moles, 3.15 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-[2-(2-thiazolylmethylthio)ethyl]amino pyridine 3-carboxylic acid | S1C(=NC=C1)CSCCNC1=NC=CC=C1C(=O)O | C12H13N3O2S2
